US03998834
A solution of 16.9 parts of ethyl 4-anilino-1-benzylisonipecotate in 150 parts of acetic acid is hydrogenated at normal pressure and at a temperature of 45° C with 1.5 parts of palladium-on-charcoal 10%. After the calculated amount of hydrogen is taken up, the reaction mixture is allowed to cool to room temperature, the catalyst is filtered off and the filtrate is evaporated. The oily residue is taken up in water, alkalized with ammonium hydroxide and the product is extracted with chloroform. The extract is washed with water, dried, filtered and evaporated. The oily residue solidifies on triturating in petroleumether. The product is filtered off and crystallized from acetonitrile, yielding ethyl 4-anilinoisonipecotate; mp. 121.8° C.

reactant | ethyl 4-anilino-1-benzylisonipecotate | N(C1=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-anilinoisonipecotate | N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C14H20N2O2
